US07951961B2
(+)-trans-2-(2-Chloro-phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one hydrochloride
(+)-trans-2-(2-Chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one (0.2 g, 0.48 mmol) was suspended in methanol (2 mL) and ethereal HCl (5 mL) was added. The suspension was stirred to get a clear solution. The solution was concentrated under reduced pressure to obtain the title compound.

reactant | (+)-trans-2-(2-Chlorophenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one | 0.48 mmol, 0.2 g | ClC1=C(C=CC=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)OC)OC)[C@H]1[C@@H](N(CC1)C)CO | C23H24ClNO5
reactant | HCl | 5 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | (+)-trans-2-(2-Chloro-phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one hydrochloride | Cl.ClC1=C(C=CC=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | InChI=1S/C21H20ClNO5.ClH/c1-23-7-6-12(14(23)10-24)19-15(25)8-16(26)20-17(27)9-18(28-21(19)20)11-4-2-3-5-13(11)22;/h2-5,8-9,12,14,24-26H,6-7,10H2,1H3;1H/t12-,14+;/m1./s1
